US08067445B2
Step 1: [4-Benzyloxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 2, using the following starting materials: (4-benzyloxy-3-bromo-phenyl)-acetic acid ethyl ester and bis(pinacolato)diboron.

reactant | (4-benzyloxy-3-bromo-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)Br)=O | C17H17BrO3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [4-Benzyloxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C23H29BO5
